US05315018
Preparation of 4,5-methylenedioxy-2-propylbenzyl acetate
A mixture of dihydrosafrole, 25 g, in acetic acid (25 g) was added, with stirring over 3 hours to a mixture of acetic acid (230 g), paraformaldehyde (45 g) and sulphuric acid (10%, 1.6 g) held at 70° C. After the reaction had been shown to be complete by glc, the excess paraformaldehyde was removed by filtration and the filtrate poured into water (450 ml). Sodium hydroxide solution (20 ml of a 10% solution) was then added. Ether extraction, followed by drying over magnesium sulphate, filtration and evaporation of solvent gave an oil. Methanol (30 ml) was added and after cooling to 0° C. a colourless precipitate of "dimer" (7) was removed by filtration. Evaporation of the filtrate gave 12.7 g of an oil which was purified by distillation to give 7.3 g of colourless oil as 4,5-methylenedioxy-2-propylbenzyl acetate. (b.p. 176°-185° C. at 0.4 mmHg).

reactant | dihydrosafrole | O1COC2CC(CC=C)=CC=C12 | C10H12O2
reactant | paraformaldehyde | 45 g | C=O | CH2O
reactant | sulphuric acid | 1.6 g | S(O)(O)(=O)=O | H2O4S
reactant | Methanol | 30 ml | CO | CH4O
reactant | acetic acid | 25 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 230 g | C(C)(=O)O | C2H4O2
product | 4,5-methylenedioxy-2-propylbenzyl acetate | 12.7 g | C(C)(=O)OCC1=C(C=C2C(=C1)OCO2)CCC | C13H16O4
